US04863929
1,1-Diethyl-3-(6-methyl-13-hydroxymethyl-8α-ergolinyl)urea
80 mg of lithium aluminum hydride (2 mmol) is suspended in 5 ml of anhydrous, freshly distilled THF and, at room temperature, a solution of 350 mg of 1,1-diethyl-3-(13-formyl-6-methyl-8α-ergolinyl)urea (1 mmol), dissolved in 10 ml of anhydrous, freshly distilled THF, is added thereto. After one hour of stirring at room temperature, the mixture is combined under cooling with 5 ml of 1N hydrochloric acid, 5 ml of 2N tartaric acid solution is added, and the mixture is rendered alkaline with aqueous ammonia, extracted with ethyl acetate, the organic phase dried and evaporated. After chromatography on silica gel, the compound is crystallized from ethyl acetate.

reactant | lithium aluminum hydride | 2 mmol, 80 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1,1-diethyl-3-(13-formyl-6-methyl-8α-ergolinyl)urea | 1 mmol, 350 mg | C(C)N(C(=O)N[C@@H]1CN([C@@H]2CC3=CNC4=CC(=CC([C@H]2C1)=C34)C=O)C)CC | C21H28N4O2
reactant | hydrochloric acid | 1N, 5 ml | Cl | ClH
reactant | tartaric acid | 2N, 5 ml | C(C(O)C(O)C(=O)O)(=O)O | C4H6O6
reactant | ammonia | N | H3N
solvent | THF | C1CCOC1 | C4H8O
product | 1,1-Diethyl-3-(6-methyl-13-hydroxymethyl-8α-ergolinyl)urea | C(C)N(C(=O)N[C@@H]1CN([C@@H]2CC3=CNC4=CC(=CC([C@H]2C1)=C34)CO)C)CC | C21H30N4O2
